US07585885B2
N-Methyl-N-propyl-5-thiazol-2-yl-isophthalamic acid methyl ester
To a previously nitrogen-flushed vessel, add zinc dust (<10 microns, 0.196 g, 3 mmol) and 1,2-dibromoethane (0.023 mL, 0.27 mmol) to THF (0.5 mL). Heat the solution until bubbles appear. Repeat the heating twice and cool to room temperature. Add chlorotrimethylsilane (15 μL) and 2-bromothiazole (90 μL, 1 mmol) in THF (0.4 mL). Stir at room temperature for 15 min. Add 5-iodo-N-methyl-N-propyl-isophthalamic acid methyl ester (541 mg, 1.5 mmol), tetrakis(triphenylphosphine)palladium (0) (15 mg) and flush the mixture with nitrogen again before heating to reflux for 10 h. Cool to room temperature, concentrate and purify (silica gel chromatography, eluting with 0:100 to 40:60 ethyl acetate:hexanes) to give the title compound (95%).

reactant | 1,2-dibromoethane | 0.27 mmol, 0.023 mL | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 15 μL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-bromothiazole | 1 mmol, 90 μL | BrC=1SC=CN1 | C3H2BrNS
reactant | 5-iodo-N-methyl-N-propyl-isophthalamic acid methyl ester | 1.5 mmol, 541 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)I)=O | C13H16INO3
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
catalyst | zinc | 3 mmol, 0.196 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-Methyl-N-propyl-5-thiazol-2-yl-isophthalamic acid methyl ester | 95% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=1SC=CN1)=O | C16H18N2O3S
